US07291631B2
Using General Procedure B, reaction of 4-[(3-methyl-pyridin-2-ylmethyl)-amino}-piperidine-1-carboxylic acid tert-butyl ester, 3-methyl-pyridine-2-carbaldehyde and NaBH(OAc)3 in CH2Cl2 gave 4-[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester as a yellow oil. 1H NMR (CDCl3) δ 1.45 (s, 9H), 1.84-1.88 (m, 4H), 2.09 (s, 6H), 2.50-2.66 (m, 3H), 3.81 (s, 4H), 4.14-4.17 (m, 2H), 7.05-7.09 (m, 2H), 7.36 (d, 2H, J=9.0 Hz), 8.34 (d, 2H, J=3.0 Hz). Deprotection with TFA using General Procedure F gave COMPOUND 249 as a white solid. 1H NMR (CDCl3) δ 1.56-1.70 (m, 2H), 1.75 (s, 1H), 1.90 (d, 2H, J=12.0 Hz), 2.10 (s, 6H), 2.31-2.51 (m, 2H), 2.55-2.58 (m, 1H), 3.12 (d, 2H, J=12.0 Hz), 3.84 (s, 4H), 7.05-7.09 (m, 2H), 7.35 (d, J=7.5 Hz), 8.34 (d, 2H, J=3.0 Hz). 13C NMR (CDCl3) δ 18.42, 28.86, 47.07, 55.13, 58.17, 122.64, 133.81, 138.29, 146.21, 157.93. ES-MS m/z 311 (M+H). Anal. Calcd. for C19H26N4.0.3H2O: C, 72.25; H, 8.49; N, 17.74. Found: C, 72.11; H, 8.41; N, 17.58.

reactant | 4-[(3-methyl-pyridin-2-ylmethyl)-amino}-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)NCC1=NC=CC=C1C | C17H27N3O2
reactant | 3-methyl-pyridine-2-carbaldehyde | CC=1C(=NC=CC1)C=O | C7H7NO
reactant | NaBH(OAc)3 | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
solvent | CH2Cl2 | C(Cl)Cl | CH2Cl2
product | 4-[bis-(3-methyl-pyridin-2-ylmethyl)-amino]-piperidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CCC(CC1)N(CC1=NC=CC=C1C)CC1=NC=CC=C1C | C24H34N4O2
